US08685970B2
A mixture of 2-chloroquinolin-8-amine (1.75 g, 9.8 mmol), 3-pyridinecarbaldehyde (2.14 g, 20 mmol) and AcOH (1.2 g, 20 mmol) in MeOH (10 mL) were added NaCNBH3 (1.26 g, 20 mmol) in portions at room temperature, then the reaction mixture was stirred at room temperature for 5 h. The reaction was concentrated in vacuo, and the residue was taken up in CH2Cl2. The solution was washed with water (1×50 mL), dried over Na2SO4, concentrated and purified by silica gel column (20:1 pentane/ethyl acetate) to give 2-chloro-N-(pyridin-3-ylmethyl)quinolin-8-amine as a yellow oil (2.1 g, yield 80%).

reactant | 2-chloroquinolin-8-amine | 9.8 mmol, 1.75 g | ClC1=NC2=C(C=CC=C2C=C1)N | C9H7ClN2
reactant | 3-pyridinecarbaldehyde | 20 mmol, 2.14 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | AcOH | 20 mmol, 1.2 g | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 20 mmol, 1.26 g | [BH3-]C#N.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 2-chloro-N-(pyridin-3-ylmethyl)quinolin-8-amine | 2.1 g, yield 80% | ClC1=NC2=C(C=CC=C2C=C1)NCC=1C=NC=CC1 | C15H12ClN3
